US04033994
Preparation of Ortho-Hydroxyphenyl p-Menthane 3-Carboxylate
p-Menth-3-oyl chloride (2.0 g.) and pyrocatechol (1.1 g.) were heated under refluxing conditions in toluene (75 ml.) for 4 hours. An oily liquid was recovered which was identified as ortho-hydroxyphenyl p-menthane-3-carboxylate.

reactant | p-Menth-3-oyl chloride | 2.0 g | C1(CC(C(CC1)C(C)C)C(=O)Cl)C | C11H19ClO
reactant | pyrocatechol | 1.1 g | C=1(O)C(O)=CC=CC1 | C6H6O2
solvent | toluene | 75 ml | C1(=CC=CC=C1)C | C7H8
product | Ortho-Hydroxyphenyl p-Menthane 3-Carboxylate | C1(CC(C(CC1)C(C)C)C(=O)OC1=C(C=CC=C1)O)C | C17H24O3
